US04175203
A 70% solution in benzene of sodium bis(2-methoxyethoxy)aluminum hydride (95.2 g., 0.33 mole of reagent) is added dropwise during one hour to a stirred solution of ethyl o-(cyanomethyl)hydrocinnamate (65.0 g., 0.3 mole) in benzene (250 ml.). The reaction mixture is held at 25°-28° C. by means of a cold water bath. The mixture is stirred at 25°-28° C. for 4 additional hours. Ethyl acetate (5 ml.) is added to destroy excess reducing agent. The mixture is then treated with 250 ml. ice-cold 5% hydrochloric acid. The benzene layer is separated, washed with water, and dried over sodium sulfate. Evaporation of the benzene in vacuo affords [2-(3-hydroxypropyl)phenyl]acetonitrile.

reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 0.33 mole, 95.2 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | ethyl o-(cyanomethyl)hydrocinnamate | 0.3 mole, 65.0 g | C(#N)CC1=C(CCC(=O)OCC)C=CC=C1 | C13H15NO2
reactant | Ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | [2-(3-hydroxypropyl)phenyl]acetonitrile | OCCCC1=C(C=CC=C1)CC#N | C11H13NO
